US06605618B2
4-[4-(4-[2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-1-carboxylic acidoctylamide
4-((4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinylcarbonyl)-N-octyl-1-piperidinecarboxamide (0.160 g, 0.180 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol) to give the title compound (0.02 g, 0.03 mmol).

reactant | (4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinylcarbonyl)-N-octyl-1-piperidinecarboxamide | 0.180 mmol, 0.160 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)C3N(CCCC3)C(=O)NCCCCCCCC)C=C2)O)C=C1 | C53H75N5O5Si
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[4-(4-[2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-1-carboxylic acidoctylamide | 0.03 mmol, 0.02 g | C(CCCCCCC)NC(=O)N1CCC(CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C37H57N5O5
